US07834019B2
1) Production of 2-[(6-bromopyridin-2-yl)(methyl)amino]ethanol
7.45 g of 2,6-dibromopyridine and 12 mL of N-methylethanol were stirred overnight at 140° C. Water was added to the reaction liquid, extracted with ethyl acetate, washed with saturated saline water, and dried with anhydrous magnesium sulfate. After concentrated under reduced pressure, the residue was purified through silica gel column chromatography (hexane/ethyl acetate=1/1) to obtain 3.98 g of the entitled compound as a colorless oily substance.

reactant | 2,6-dibromopyridine | 7.45 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | Water | O | H2O
product | 2-[(6-bromopyridin-2-yl)(methyl)amino]ethanol | 3.98 g | BrC1=CC=CC(=N1)N(CCO)C | C8H11BrN2O
